US08048878B2
Synthesis of tert-butyl {(R)-1-(tert-butyldiphenylsilanyloxymethyl)-2-[2-(4-chlorophenyl)-2-oxoethoxy]ethyl}carbamate
4-Chlorophenylmagnesium bromide (1 M solution in diethyl ether, 3.44 mL) was added dropwise to a solution of tert-butyl (R)-3-(tert-butyldiphenylsilanyloxymethyl)-5-oxomorpholine-4-carboxylate (1.47 g) in THF (35 mL) at −50° C. over five minutes, and the reaction solution was stirred at −40° C. for one hour. A saturated ammonium chloride solution was added to the solution in small portions at −40° C., and the reaction solution was returned to room temperature. Ethyl acetate was added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, and then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane-ethyl acetate system) to obtain 1.48 g of the title compound. The property value of the compound is as follows.

reactant | 4-Chlorophenylmagnesium bromide | 1 M, 3.44 mL | ClC1=CC=C(C=C1)[Mg]Br
reactant | tert-butyl (R)-3-(tert-butyldiphenylsilanyloxymethyl)-5-oxomorpholine-4-carboxylate | 1.47 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1N(C(COC1)=O)C(=O)OC(C)(C)C | C26H35NO5Si
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | tert-butyl {(R)-1-(tert-butyldiphenylsilanyloxymethyl)-2-[2-(4-chlorophenyl)-2-oxoethoxy]ethyl}carbamate | 1.48 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H](COCC(=O)C1=CC=C(C=C1)Cl)NC(OC(C)(C)C)=O | C32H40ClNO5Si
